US08304036B2
7.66 g (20.6 mmol) of ethyltriphenylphosphonium bromide are initially introduced in 80 ml of THF at 0° C., and 2.23 g (19.8 mmol) of potassium tert-butoxide dissolved in 20 ml of THF are added. After 1.5 h at RT, 5.0 g (15.9 mmol) of 5-(4-ethoxy-2,3-difluorophenyl)selenophene-2-carbaldehyde are added in portions with ice-cooling, and the batch is stirred at RT for 3.5 h. The mixture is diluted with MTBE, and water and 2 N hydrochloric acid are added. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:EtOAc=5:1→2:1). Further purification is carried out by recrystallisation from n-heptane; 2-(4-ethoxy-2,3-difluorophenyl)-5-propenylselenophene is obtained as a yellow solid.

reactant | potassium tert-butoxide | 19.8 mmol, 2.23 g | CC(C)([O-])C.[K+]
reactant | 5-(4-ethoxy-2,3-difluorophenyl)selenophene-2-carbaldehyde | 15.9 mmol, 5.0 g | C(C)OC1=C(C(=C(C=C1)C1=CC=C([Se]1)C=O)F)F | C13H10F2O2Se
catalyst | ethyltriphenylphosphonium bromide | 20.6 mmol, 7.66 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | water | O | H2O
solvent | hydrochloric acid | 2 N | Cl | ClH
product | 2-(4-ethoxy-2,3-difluorophenyl)-5-propenylselenophene | C(C)OC1=C(C(=C(C=C1)C=1[Se]C(=CC1)C=CC)F)F | C15H14F2OSe
